US06831106B1
a) 1-{3′-[3,4-Bis-(tert-butyldimethylsilanyloxymethyl)benzyloxy]-2-methylbiphenyl-4-yl)-2-methyl-1-propanol
In a manner similar to that of Example 27(f), by reaction of 2 g (3.1 mmol) of 3′-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)benzyloxy]-4-bromo-2-methylbiphenyl with 1.4 mL (3.5 mmol) of 2.5 M butyllithium and 400 μl (37 mmol) of 2-methylpropionaldehyde, the desired product is obtained in the form of a colourless oil (m=1.1 g; Y=56%).

reactant | 3′-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)benzyloxy]-4-bromo-2-methylbiphenyl | 3.1 mmol, 2 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(COC=2C=C(C=CC2)C2=C(C=C(C=C2)Br)C)C=CC1CO[Si](C)(C)C(C)(C)C | C34H49BrO3Si2
reactant | butyllithium | 3.5 mmol, 2.5 M, 1.4 mL | C(CCC)[Li]
reactant | 2-methylpropionaldehyde | 37 mmol, 400 μl | CC(C=O)C | C4H8O
product | 1-{3′-[3,4-Bis-(tert-butyldimethylsilanyloxymethyl)benzyloxy]-2-methylbiphenyl-4-yl)-2-methyl-1-propanol | [Si](C)(C)(C(C)(C)C)OCC=1C=C(COC=2C=C(C=CC2)C2=C(C=C(C=C2)C(C(C)C)O)C)C=CC1CO[Si](C)(C)C(C)(C)C | C38H58O4Si2
